US09216173B2
To a solution of benzyl (3,3-difluoro-2-hydroxypropyl)carbamate (300 g, 1.22 mol) in dichloromethane (5000 mL) under a nitrogen atmosphere was added triethylamine (300 g, 2.97 mol). The reaction mixture was cooled to −40° C., and triflic anhydride (420 g, 1.49 mol) was added dropwise over a period of 2 hours. After 2 hours post-addition, the reaction mixture was quenched with water (2500 mL) at −40° C. The organic layer was separated and then washed sequentially with hydrochloric acid (1.0 M in water, 2500 mL), saturated aqueous sodium bicarbonate (2500 mL), and brine (2500 mL). The organic layer was dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure to afford 3-{[(benzyloxy)carbonyl]amino}-1,1-difluoropropan-2-yl trifluoromethanesulfonate. The material was used without further purification.

reactant | benzyl (3,3-difluoro-2-hydroxypropyl)carbamate | 1.22 mol, 300 g | FC(C(CNC(OCC1=CC=CC=C1)=O)O)F | C11H13F2NO3
reactant | triethylamine | 2.97 mol, 300 g | C(C)N(CC)CC | C6H15N
reactant | triflic anhydride | 1.49 mol, 420 g | S(=O)(=O)(C(F)(F)F)OS(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | dichloromethane | 5000 mL | ClCCl | CH2Cl2
product | 3-{[(benzyloxy)carbonyl]amino}-1,1-difluoropropan-2-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC(C(F)F)CNC(=O)OCC1=CC=CC=C1)(F)F | C12H12F5NO5S
